US07601716B2
{4-[1-(2,5-Difluorobenzyl)-3,3-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone
1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (44 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as an off-white solid (55% yield). M.p. 191-192° C., LCMS: m/z=492.10 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.34 (s, 6H), 2.32 (s, 3H), 2.38-2.50 (m, 4H), 3.13 (s, 2H), 3.45-3.58 (m, 2H), 3.65-3.85 (m, 2H), 4.52 (s, 2H), 4.90 (bs, 1H), 6.79 (d, J=1.3 Hz, 1H), 6.90-6.97 (m, 1H), 6.99-7.08 (m, 2H), 7.42 (dd, J=8.6 Hz, 4H), 7.74 (d, J=1.5 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 44 mg | FC1=C(CN2C3=C(NC(C2)(C)C)N=CC(=C3)I)C=C(C=C1)F | C16H16F2IN3
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | {4-[1-(2,5-Difluorobenzyl)-3,3-dimethyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-(4-methylpiperazin-1-yl)methanone | 55% yield | FC1=C(CN2C3=C(NC(C2)(C)C)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C=C(C=C1)F | C28H31F2N5O
